US06320051B1
f. 2-{[(1R,2R)-2-(3,4-Dichlorobenzylamino)cyclopentylmethyl]amino}-1H-quinolin-4-one
The title compound was prepared from 2-[((1R,2R)-2-aminocyclopentylmethyl)amino]-1H-quinolin-4-one dihydrochloride(0.059 g, 0.18 mmol), 3,4-dichlorobenzaldehyde (0.031 g, 0.18 mmol), sodium acetate (0.045 g, 0.54 mmol) and sodium cyanoborohydride (0.02 g, 0.32 mmol) in a 1% solution of acetic acid in methanol (2 mL) according to the procedure described in Example 61d. δH (CD3OD) 1.61-1.72 (3H, m), 1.79-1.96 (3H, m), 2.27-2.37 (1H, m), 3.18 (1H, q, J=6.44 Hz), 3.30 (1H, d×d, J=6.67 & 13.34 Hz), 3.49 (1H, d×d, J=6.95 & 13.28 Hz), 3.75 (1H, d, J=13.82 Hz), 3.88 (1H, d, J=13.76 Hz), 5.70 (1H, s), 7.18-7.32 (4H, m), 7.42 (1H, d, J=8.26 Hz), 7.51 (1H, t, J=7.84 Hz), 8.10 (1H, d, J=8.02 Hz). MS (ES+) 833 (5%) [2M]H+, 416 (87%) MH+.

reactant | 2-[((1R,2R)-2-aminocyclopentylmethyl)amino]-1H-quinolin-4-one dihydrochloride | 0.18 mmol, 0.059 g | Cl.Cl.N[C@H]1[C@H](CCC1)CNC=1NC2=CC=CC=C2C(C1)=O
reactant | 3,4-dichlorobenzaldehyde | 0.18 mmol, 0.031 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | sodium acetate | 0.54 mmol, 0.045 g | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 0.32 mmol, 0.02 g | C(#N)[BH3-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-{[(1R,2R)-2-(3,4-Dichlorobenzylamino)cyclopentylmethyl]amino}-1H-quinolin-4-one | ClC=1C=C(CN[C@H]2[C@H](CCC2)CNC=2NC3=CC=CC=C3C(C2)=O)C=CC1Cl | C22H23Cl2N3O
